Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Tree Nut
 
Attending: ___
 
___ Complaint:
SOB, cough
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ hx of COPD, s/p trach x2, multiple intubations for resp 
failure who presents with worsening SOB for over a week. Pt had 
been completing prednisone taper however the past several days 
she noted increas in cough and sputum production. Also reports 
chest tightness which began yesterday which she describes as 
pleuritic, non-radiating and non-exertional States she has had 
similar symptoms in past with severe COPD flares. Denies 
abdominal pain or emesis although states she did have decreased 
appetite and nausea yesterday. No dysuria. States she was not 
having known fevers at home although does not appear to have 
been taking temperature. Did take a dose of PO levo today as 
well. Sick contacts include her mother who is currently 
hospitalized with a COPD exacerbation and possible pna. Had been 
using xopenex nebs at home.

On arrival to the ED, VS: 102.0 ___ 28 100% 15L NRB. 
After nebs, VS: HR 160s 220/100. Pt started on nitroglycerin 
gtt. Also received CTX,  azithro and 125 mg methylprednisone. Pt 
required ICU transfer given nonrebreather requirement.
 
On the floor, VS: 98.7, 133/87, HR 119, 96% on 2L NC. Pt states 
her breathing is much improved. She does now have a headache. 
Chest tightness still present although has improved as 
respiratory status improving.
 
Review of systems:  
(+) Per HPI  
(-) Denies recent weight loss or gain.  Denies chest pain, chest 
pressure, palpitations, or weakness. Denies nausea, vomiting, 
diarrhea, constipation, abdominal pain, or changes in bowel 
habits. Denies dysuria, frequency, or urgency. Denies 
arthralgias or myalgias. Denies rashes or skin changes.  

 
Past Medical History:
1. COPD, PFTs in ___ with FEV1 0.30 (13%), FVC 1.02 (34%) and  
FVC/FEV1 38% - on Home O2 at 3L NC, on chronic steroids, hx of  
prolonged intubation requiring trach for resp failure in ___,  

___. She was recently taken off the lung transplant list at the 
 
___ due to compression fractures. Has 
previous history of asthma per OMR  
2. Hypertension  
3. Anxiety  
4. Leukocytosis of unknown etiology with negative BMBx.  
5. Osteoporosis with compression fractures  
6. Shoulder pain  
7. History of positive PPD s/p 6mos of isoniazid  
8. Mitral valve prolapse  
9. Obstructive sleep apnea on BiPAP ___ every night)  

 
Social History:
___
Family History:
Great uncle had MI in ___, Maternal & Paternal GMs had CVAs in 
___.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals:  98.7, 133/87, HR 119, 96% on 2L NC.
General: Alert, oriented, no acute distress, pursed lips 
breathing, no notable conversational dyspnea  
HEENT: Sclera anicteric, dry MM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: decreased breath sounds bilaterally, unable to appreciate 
wheezing 
CV: tachy, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 

DISCHARGE PHYSICAL EXAM:
General: Alert, oriented, no acute distress, pursed lips 
breathing, no notable conversational dyspnea  
HEENT: Sclera anicteric, dry MM, oropharynx clear, no dental 
pain, no evidence of swelling/fullness of floor of mouth, no 
dilation of whartons duct
Neck: supple, JVP not elevated, large soft mildly tender left 
cervical mass, unchanged from prior 
Lungs: decreased breath sounds bilaterally, unable to appreciate 
wheezing 
CV: tachy, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema

 

 

 
Pertinent Results:
___ 09:59PM   TYPE-ART PO2-289* PCO2-53* PH-7.44 TOTAL 
CO2-37* BASE XS-10 INTUBATED-NOT INTUBA
___ 09:59PM   O2 SAT-99
___ 09:43PM   LACTATE-2.4*
___ 09:35PM   GLUCOSE-138* UREA N-10 CREAT-0.7 SODIUM-136 
POTASSIUM-4.2 CHLORIDE-95* TOTAL CO2-34* ANION GAP-11
___ 09:35PM   estGFR-Using this
___ 09:35PM   cTropnT-<0.01
___ 09:35PM   CALCIUM-9.3 PHOSPHATE-2.1* MAGNESIUM-1.6
___ 09:35PM   WBC-16.2*# RBC-4.39 HGB-13.2 HCT-39.9 MCV-91 
MCH-30.0 MCHC-33.0 RDW-12.7
___ 09:35PM   NEUTS-86.9* LYMPHS-6.3* MONOS-6.2 EOS-0.4 
BASOS-0.2
___ 09:35PM   PLT COUNT-358
___ 09:35PM   ___ PTT-26.9 ___

MICRO:
BLOOD CX-NEG X2
=======
Final Report 
PORTABLE CHEST:  ___. 
  
HISTORY:  ___ female with respiratory distress.  
Question pneumonia. 
  
COMPARISON:  ___. 
  
FINDINGS:  Streaky linear opacities are again seen, similar to 
prior and may 
be due to atelectasis.  There is no confluent consolidation.  
Costophrenic 
angles are sharp.  The cardiomediastinal silhouette is within 
normal limits.  
Rounded calcific density overlying the anterior left seventh rib 
is compatible 
with calcification at the costochondral junction.  No acute 
osseous 
abnormality is detected. 
  
IMPRESSION:  No focal consolidations to suggest pneumonia. 

=======

Final Report CT NECK W/CONTRAST (EG:PAROTIDS) Study Date of 
___ 1:45 ___
HISTORY:  History of COPD with shortness of breath and 2new 
eft-sided tender 
neck mass.  Rule out infection versus mass. 
  
COMPARISON:  Prior neck soft tissue ultrasound from ___. 
  
TECHNIQUE:  Routine enhanced MDCT study of the neck was 
performed with images 
obtained from the skullbase to the thoracic inlet using 3 mm 
thick sections.  
Coronal and sagittal reformations were performed.  
  
Total exam DLP:  394 mGy-cm. 
  
FINDINGS: 
  
Evaluation of the aerodigestive tract demonstrates no exophytic 
mucosal mass, 
there is no focal mass effect.  There is mild mucosal thickening 
of the 
maxillary sinuses bilaterally and ethmoidal air cells, worse on 
the left.  
Evaluation of the cervical lymph chains demonstrate no 
pathologic 
lymphadenopathy by imaging criteria.  The thyroid gland is 
normal.  The left 
salivary gland appears slightly larger than the left however no 
focal 
abnormality is identified.  Adjacent to the left salivary gland 
however, there 
is a heterogeneous soft tissue lesion similar in appearance to 
the left 
parotid gland, measuring 2 x 2 cm and demonstrating fat density. 
 This lesion 
seems to connect to the parotid gland and could correlate to the 
lesion 
identified on prior ultrasound.  There appears to be surrounding 
fat stranding 
and thickening of the adjacent tissues (5 b: 36, 04:39).  There 
is however no 
definite enhancement to suggest abscess formation.  Neck vessels 
enhance 
bilaterally without significant stenosis.   
  
IMPRESSION: 
  
2 x 2 cm heterogeneous soft tissue lesion adjacent to the left 
salivary gland 
with apparent connection to the parotid gland, similar in 
appearance to 
parotid tissue, demonstrating fatty density and surrounding fat 
stranding 
could represent an extension of normal parotid tissue with 
possible early 
signs of inflammatory changes, given surrounding fat stranding.  
However, no 
definite enhancement is seen to suggest abscess formation. This 
lesion likely 
correlates to lesion seen on prior ultrasound. 
  
The study and the report were reviewed by the staff radiologist. 

  
___. ___ 
___. ___ 
___: SAT ___ 5:10 ___ 

DISCHARGE LABS:

___ 04:59AM BLOOD WBC-11.4* RBC-4.42 Hgb-13.1 Hct-40.3 
MCV-91 MCH-29.7 MCHC-32.6 RDW-12.9 Plt ___
___ 04:59AM BLOOD Glucose-96 UreaN-12 Creat-0.7 Na-135 
K-3.9 Cl-88* HCO3-41* AnGap-10
___ 04:59AM BLOOD Calcium-8.9 Phos-3.9 Mg-2.___ hx of COPD, s/p trach x2, multiple intubations for 
respiratory failure who presents with worsening SOB for over a 
week, now with cough, increased sputum production and fevers for 
2 days. Patient was treated for COPD exacerbation

#COPD exacerbation: Patient with history of debilitating COPD, 
on home oxygen. Patient received nebs, 125 mg methylpred, CTX 
and azithro in ED with improvement of respiratory status. In the 
ICU patient was treated with course of azithromycin and 
Prednisone 60mg daily. Patient with continued improvement in 
respiratory status with standing Albuterol and Tiotroprium nebs. 
Plan for ***Prednisone taper for total 2 weeks (down from 60mg x 
7 days): ___ - ___ => Prednisone 40mg daily; ___ => 
Prednisone 20mg daily; ___ => Prednisone 10mg daily. 
Then STOP ___.

# Acute non-suppurative Parotitis: Patient with tender left neck 
swelling noted on ___, U/S and CT scan with possible early 
inflamation vs. extension of parotid tissue. No evidence of 
abcess or stones on imaging and no purulence on exam. Patient 
received several doses of IV clindamycin and was generally well 
appearing. Low suspicion of MRSA. Discussed with ENT who 
reviewed imaging, and agreed patient could be stepped down to PO 
antibiotics. Discharged on Augmentin 875mg BID x 10 days ending 
___. Continue sialigogues (i.e. lemon wedges, lozenges every 
few hours to promote salivation).

#HTN: Pt hypertensive to SBP 220 in ED after receiving nebs. 
Improved with nitro gtt. Stable (133/87) now on floor. Patient 
restarted on home dose of Verapamil with improvement in 
hypertension. Patient should follow up with outpatient PCP for 
consideration of additional antihypertensive.

#Chest Tightness: Patient reports pleuritic CP which she has had 
in past during COPD exacerbations. Unlikely cardiac: 
non-exertional, non-radiating, troponins negative. Pain resolved 
while inpatient.

#Anxiety: Patient with significant anxiety associated with 
tachycardia to 130s. Significant improvement with Lorazepam 
0.5mg q4 hours. Switched to clonazepam at discharge.

#Depression: Continued on home dose Lexapro while inpatient.

TRANSITIONAL ISSUES
- Patient is MRSA nasal swab positive.
1) COPD: Patient with end stage lung disease. Discharged to ___ 
and will require close outpatient follow up.
2) Hypertension: Patient hypertensive while hospitalized. Please 
consider addition of second antihypertensive as an outpatient.
3) Suspected mild Parotitis: Augmentin 875mg BID x 10 days 
ending ___.
***Broaden to IV antibiotics, add MRSA coverage, and obtain 
urgent ENT evaluation if patient has worsening parotitis 
symptoms including high fevers, purulence, redness tracking down 
the neck, or Trismus***
4) Prednisone taper as above.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Tiotropium Bromide 1 CAP IH DAILY 
2. Benzonatate 100 mg PO TID 
3. Verapamil SR 240 mg PO QAM 
4. Verapamil SR 120 mg PO QHS 
5. Ipratropium Bromide MDI 2 PUFF IH QID 
6. Furosemide 20 mg PO ONCE 
7. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
8. Omeprazole 20 mg PO DAILY 
9. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315mg-200 
unit oral 2 tablets Qday 
10. Levalbuterol Neb 0.63 mg/3 mL inhalation q4 hrs 
11. Escitalopram Oxalate 10 mg PO DAILY 
12. TraZODone 150 mg PO HS:PRN insomnia 
13. Vitamin D 1000 UNIT PO DAILY 
14. Albuterol Inhaler 2 PUFF IH Q4H:PRN dyspnea 

 
Discharge Medications:
1. Escitalopram Oxalate 10 mg PO DAILY 
2. Furosemide 20 mg PO DAILY 
3. Levalbuterol Neb 1.26 mg INHALATION Q4H Wheezing, SOB 
4. TraZODone 50 mg PO HS:PRN insomnia 
5. Verapamil SR 240 mg PO QAM 
6. Verapamil SR 120 mg PO QHS 
7. Acetaminophen 650 mg PO Q6H:PRN pain 
8. Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 10 Days 
9. Cepastat (Phenol) Lozenge 1 LOZ PO Q2H:PRN Sore throat 
10. Docusate Sodium 100 mg PO BID 
11. Ipratropium Bromide Neb 1 NEB IH Q6H SOB 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
13. Senna 1 TAB PO BID 
14. Benzonatate 100 mg PO TID 
15. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315mg-200 
unit oral 2 tablets Qday 
16. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
17. Omeprazole 20 mg PO DAILY 
18. Vitamin D 1000 UNIT PO DAILY 
19. PredniSONE 40 mg PO DAILY Duration: 1 Day 
Start: Tomorrow - ___, First Dose: First Routine 
Administration Time 
Total 2 week taper beginning ___ at 60mg 
20. PredniSONE 20 mg PO DAILY Duration: 2 Days 
Start: After 40 mg tapered dose 
Total 2 week taper beginning ___ at 60mg 
21. PredniSONE 10 mg PO DAILY Duration: 2 Days 
Start: After 20 mg tapered dose 
Total 2 week taper beginning ___ at 60mg 
22. Lemon wedges
Q4H to promote salivation while treating Parotid Gland infection
23. ClonazePAM 0.5 mg PO BID:PRN anxiety 
RX *clonazepam 0.5 mg 1 tablet(s) by mouth twice a day as needed 
Disp #*10 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
COPD exacerbation
parotidis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, it was a pleasure taking care of you during your 
stay at ___. You were admitted for a COPD exacerbation. 
You were treated with antibiotics, steroids and nebulizers. Your 
breathing improved. While you were here you developed an 
inflammation of your parotid gland. You should continue on 
antibiotics for this inflammation.
 
Followup Instructions:
___